### PR TITLE
Redo lense PR after fixing master

### PR DESCRIPTION
**Pull request by IanRay11**
Redo...

We add a PR on the notion of a reflexive graph lens which can be thought of as a generic notion of transport along edges.

I have tried to make notation consistent with existing work, but it's possible I have missed something. I have updated dates and provided extensive comments.

Note: (carlo and) I decided that giving the structure of a lens as a record could be beneficial for later goals, but I still have provided names for the projections.

### CODE REVIEW

**Comment by IanRay11** [comment]
@jonsterling (and @martinescardo)

File: source/ReflexiveGraphs/Lenses.lagda [hunk 1]
```diff
@@ -0,0 +1,277 @@
...
+
+lens-push-fam : {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
+              → Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐
+              → ⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥'
+lens-push-fam (𝓑 , _) = 𝓑
+
+⟨_،_⟩ : {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
+      → Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐
+      → ⟨ 𝓐 ⟩ → 𝓤' ̇
+⟨ 𝓛 ، x ⟩ = ⟨ lens-push-fam 𝓛 x ⟩
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: This is a kind of scary notation 😉 Maybe just using `lens-push-fam` is more readable? Not sure. Another option would be `_<_>`.

I don't feel strongly about it though.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 2]
```diff
@@ -0,0 +1,277 @@
...
+lax-contravariant-lens-is-univalent 𝓐 𝓛
+ = (x : ⟨ 𝓐 ⟩) → is-univalent-refl-graph (lens-pull-fam 𝓛 x)
+
+\end{code}
+
+We now define a display of lenses.
+
+\begin{code}
+
+covariant-displayed-oplax-lens : {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥)
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: 1. The name of this thing makes it sound to me like it is producing a "displayed lens", which is not the intention.
2. We should be consistent about the order of `covariant` and `oplax` in names.

Perhaps `display-oplax-covariant-lens`? Not sure.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 3]
```diff
@@ -0,0 +1,277 @@
...
+ = ((λ - → ⟨ 𝓛 ، - ⟩) , II , III)
+ where
+  II : {x y : ⟨ 𝓐 ⟩} → x ≈⟨ 𝓐 ⟩ y → ⟨ 𝓛 ، x ⟩ → ⟨ 𝓛 ، y ⟩ → 𝓥' ̇
+  II {_} {y} p u v = lens-push 𝓛 p u ≈⟨ lens-push-fam 𝓛 y ⟩ v
+  III : {x : ⟨ 𝓐 ⟩} (u : ⟨ 𝓛 ، x ⟩) → II (≈-refl 𝓐 x) u u
+  III u = lens-push-refl 𝓛 u
+
+syntax covariant-displayed-oplax-lens 𝓐 𝓑 = disp⁺ 𝓐 , 𝓑
+
+contravariant-displayed-lax-lens : {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥)
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: (Same with this one.)

File: source/ReflexiveGraphs/Lenses.lagda [hunk 4]
```diff
@@ -0,0 +1,277 @@
...
+                                 → Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐
+                                 → Displayed-Refl-Graph 𝓤' 𝓥' 𝓐
+contravariant-displayed-lax-lens {𝓤} {𝓥} {𝓤'} {𝓥'} 𝓐 𝓛
+ = ( (λ - → ⟨ 𝓛 ⸲ - ⟩), I , II)
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: Is there a character after `𝓛`? For some reason this is displaying for me in GitHub as whitespace, but when I copy and paste it, it shows up as something very strange... Maybe it's my fonts.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 5]
```diff
@@ -0,0 +1,277 @@
...
+  where
+  I : {x y : ⟨ 𝓐 ⟩} → x ≈⟨ 𝓐 ⟩ y → ⟨ 𝓛 ⸲ x ⟩ → ⟨ 𝓛 ⸲ y ⟩ → 𝓥' ̇
+  I {x} p u v = u ≈⟨ lens-pull-fam 𝓛 x ⟩ lens-pull 𝓛 p v
+  II : {x : ⟨ 𝓐 ⟩} (u : ⟨ lens-pull-fam 𝓛 x ⟩) → I (≈-refl 𝓐 x) u u
+  II u = lens-pull-refl 𝓛 u
+
+syntax contravariant-displayed-lax-lens 𝓐 𝓑 = disp⁻ 𝓐 , 𝓑
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: I find the use of commas here a little confusing.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 6]
```diff
@@ -0,0 +1,277 @@
...
+\begin{code}
+ 
+fan-of-oplax-covariant-lens
+ : {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥)
+ → (𝓛 : Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐)
+ → (x : ⟨ 𝓐 ⟩)
+ → (u : ⟪ disp⁺ 𝓐 , 𝓛 ⟫ x)
+ → fan ([ disp⁺ 𝓐 , 𝓛 ] x) u
+  ＝ fan (lens-push-fam 𝓛 x) (lens-push 𝓛 (≈-refl 𝓐 x) u)
+fan-of-oplax-covariant-lens 𝓐 𝓛 x u = refl
```
Comment (jonsterling) [inline source/ReflexiveGraphs/Lenses.lagda]: Maybe these definitional computation lemmas should be named something like `compute-fan-of-oplax-covariant-lens` etc.?

**Review by jonsterling — COMMENTED** [review]
This is looking cool! i've made a few suggestions.

File: source/ReflexiveGraphs/Lenses.lagda (hunk 1 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: I don't like it either... I think the name suggestion is best just wish I could use a carrier-like notation. (P.S. I don't like the other suggestion becuase L isn't in the brackets.

File: source/ReflexiveGraphs/Lenses.lagda (hunk 4 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: I fixed this when I renamed the other stuff.

File: source/ReflexiveGraphs/Lenses.lagda (hunk 5 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: Indeed, I am not able to use a subscrtipted \mathcal{A} here. Do you have any suggestions?

Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: I'm clearly good at coming up with bad syntax

Comment (jonsterling) [reply source/ReflexiveGraphs/Lenses.lagda]: Why not just get rid of the comma and call it `disp- A B`?

Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: Ahh I need to just drop the syntax and just give this a second name.

**Comment by IanRay11** [comment]
@martinescardo shall we do another round of review?

**Comment by IanRay11** [comment]
@martinescardo @tomdjong I have made an effort to improve the comments and also address @jonsterling 's suggestions.

**Comment by tomdjong** [comment]
Thanks @IanRay11. I think @jonsterling should be the first to take a look to see if his suggestions were taken up satisfactorily.
Also thanks for the initial review, Jon!

**Comment by jonsterling** [comment]
I mentioned to Ian that I'm going to be too busy to look at this for a while. If I were giving advice (keeping in mind that I'm not a maintainer of TypeTopology), I'd suggest these very small PRs are leading to a bottleneck in which a dozen revisions seem to be needed just to get 150 lines in. I appreciate the need to keep TypeTopology polished, but I can't help but thinking this development would already be done to a high standard if it were submitted in slightly larger chunks and the review process were carried out with a slightly lighter touch. If a 'heavy touch' is still desired, I'll be able to come back to this in two or three weeks 😄

**Comment by IanRay11** [comment]
Just to add to this, I feel that I have addressed Jon's suggestions sufficiently (they were straightforward). I think, this would benefit from a review from the maintainers (at their convenience) as they will better identify if something is not clear (or in the TypeTopology style).

File: source/ReflexiveGraphs/Lenses.lagda [hunk 7]
```diff
@@ -0,0 +1,292 @@
...
+on the reflexive graph (𝓤 , ≃). In fact, such a term is recorded in
+Sets-Properties.lagda, albeit contravariantly, as the term equiv-to-set. Of
+course, many notions of transport arise in the contravariant form as well.
+For this reason we wish to also consider terms of the form
+
+                  pull : (x ≈ y) → P(y) → P(x).
+
+A lens on a reflexive graph can be thought of as such a generic notion of
+transport. They will manifest in both the covariant and contravariant forms.
+Lenses allow for a deeper characiterization of many structures that use a
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: Typo: `characiterization`

File: source/ReflexiveGraphs/Lenses.lagda [hunk 8]
```diff
@@ -0,0 +1,292 @@
...
+personalized notion of transport (which under univalence are equivalent up to
+homotopy). This fact about uniqueness of transport has been dubbed the
+fundamental theorem of transport by Martin Escardo. (TODO. Add the
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: Can you provide a reference/link?

File: source/ReflexiveGraphs/Lenses.lagda [hunk 9]
```diff
@@ -0,0 +1,292 @@
...
+link).
+
+\begin{code}
+
+{-# OPTIONS --safe --without-K #-}
+
+module ReflexiveGraphs.Lenses where
+
+open import MLTT.Spartan
+open import UF.Equiv
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]:
```
tom@pop-os ~/r/r/source (LenseRedo)> ../imports.sh ReflexiveGraphs/Lenses.lagda 
Importing UF.Equiv was not necessary
Importing ReflexiveGraphs.Constructions was not necessary
```
Indeed, these imports are not required.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 10]
```diff
@@ -0,0 +1,292 @@
...
+Just as in the statement of this transport theorem one needs data that details
+behavior at refl, this data must also be included in the definition of a lens.
+
+We present the structure of an oplax covariant lens as a record and then
+collect the type of oplax covariant lenses as a sigma type.
+
+NOTE ON TERMINOLOGY: We follow Sterling's terminological conventions, but we
+make an attempt to explain them here. The term "lens" has a long history of use
+in computer science and category theory which we make no attempt to recount
+here. Sterling borrows the term lens from work on a generalisation of fibrations
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: You use both `generalisation` and `generalization`. Please pick one.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 11]
```diff
@@ -0,0 +1,292 @@
...
+which, rather than satisfying a universal property, are only required satisfy a
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: Typo: *to* satisfy

File: source/ReflexiveGraphs/Lenses.lagda [hunk 12]
```diff
@@ -0,0 +1,292 @@
...
+(in addition to many other requirements) and oplax if there is a morphism
+F(1_C) → 1_D. It is the direction of these morphisms which motivates Sterling's
+use of the terminology. In particular, see the direction of the edges in the
+push-refl and pull-refl data below.
+
+\begin{code}
+
+record oplax-covariant-lens-structure
+ (𝓤' 𝓥' : Universe) (𝓐 : Refl-Graph 𝓤 𝓥)
+ (𝓑 : ⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥') : 𝓤 ⊔ 𝓥 ⊔ (𝓤' ⊔ 𝓥')⁺  ̇ where
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: `𝓤 ⊔ 𝓥 ⊔ 𝓤' ⊔ 𝓥'` works just fine. No need to bump the universe levels.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 13]
```diff
@@ -0,0 +1,292 @@
...
+
+\end{code}
+
+We now present a lax contravariant lens.
+
+\begin{code}
+
+record lax-contravariant-lens-structure
+ (𝓤' 𝓥' : Universe) (𝓐 : Refl-Graph 𝓤 𝓥)
+ (𝓑 : ⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥') : 𝓤 ⊔ 𝓥 ⊔ (𝓤' ⊔ 𝓥')⁺ ̇ where
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: As above.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 14]
```diff
@@ -0,0 +1,292 @@
...
+
+lens-pull-refl : {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
+               → (𝓛 : Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐)
+               → {x : ⟨ 𝓐 ⟩} (u : lens-pull-fam 𝓛 x)
+               → u ≈⟨ lens-pull-graph 𝓛 x ⟩ lens-pull 𝓛 (≈-refl 𝓐 x) u
+lens-pull-refl (_ , s) = lax-contravariant-lens-structure.pull-refl s
+  
+\end{code}
+
+We say a oplax (lax) covariant (contravariant) lens is univalent just when each
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: Typo: a*n* oplax

File: source/ReflexiveGraphs/Lenses.lagda [hunk 15]
```diff
@@ -0,0 +1,292 @@
...
+Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐
+ = Σ 𝓑 ꞉ (⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥') , oplax-covariant-lens-structure 𝓤' 𝓥' 𝓐 𝓑
+
+\end{code}
+
+We name the components of an oplax covariant lens.
+
+\begin{code}
+
+lens-push-graph : {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: I think you should make the arguments `{𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}` and probably also `Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐` shared using an anonymous module to avoid duplication.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 16]
```diff
@@ -0,0 +1,292 @@
...
+Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐
+ = Σ 𝓑 ꞉ (⟨ 𝓐 ⟩ → Refl-Graph 𝓤' 𝓥') , lax-contravariant-lens-structure 𝓤' 𝓥' 𝓐 𝓑
+
+\end{code}
+
+We name the components of an lax contravariant lens.
+
+\begin{code}
+
+lens-pull-graph : {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: I think you should make the arguments `{𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}` and probably also `Oplax-Contravariant-Lens 𝓤' 𝓥' 𝓐` shared using an anonymous module to avoid duplication.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 17]
```diff
@@ -0,0 +1,292 @@
...
+lax-contravariant-lens-is-univalent 𝓐 𝓛
+ = (x : ⟨ 𝓐 ⟩) → is-univalent-refl-graph (lens-pull-graph 𝓛 x)
+
+\end{code}
+
+We now define a display of lenses.
+
+\begin{code}
+
+display-oplax-covariant-lens : {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥)
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Lenses.lagda]: Again this could benefit from factoring out common assumptions.

**Review by tomdjong — COMMENTED** [review]
Thanks for weighing in, Jon. I think we can merge this soon. Here are some minor comments from my end.

**Comment by martinescardo** [comment]
I'll have a look when @IanRay11 addresses @tomdjong 's comments.

**Comment by IanRay11** [comment]
Done @martinescardo

File: source/ReflexiveGraphs/Lenses.lagda [hunk 18]
```diff
@@ -0,0 +1,272 @@
...
+
+We now define a display of lenses.
+
+\begin{code}
+
+ display-oplax-covariant-lens : Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐
+                              → Displayed-Refl-Graph 𝓤' 𝓥' 𝓐
+ display-oplax-covariant-lens 𝓛 = (lens-push-fam 𝓛 , II , III)
+  where
+   II : {x y : ⟨ 𝓐 ⟩} → x ≈⟨ 𝓐 ⟩ y → lens-push-fam 𝓛 x → lens-push-fam 𝓛 y → 𝓥' ̇
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Lenses.lagda]: I am wondering why you are counting from `II` rather than `I`.

File: source/ReflexiveGraphs/Lenses.lagda [hunk 19]
```diff
@@ -0,0 +1,272 @@
...
+                  pull : (x ≈ y) → P(y) → P(x).
+
+A lens on a reflexive graph can be thought of as such a generic notion of
+transport. They will manifest in both the covariant and contravariant forms.
+Lenses allow for a deeper characterization of many structures that use a
+personalized notion of transport (which under univalence are equivalent up to
+homotopy). This fact about uniqueness of transport has been dubbed the
+fundamental lemma of transport along equivalences by Martin Escardo
+(see https://martinescardo.github.io/TypeTopology/UF.FundamentalLemmaOfTransportAlongEquivalences.html).
+(TODO. Add the ReflexiveGraphs.Examples file which provides a generalization
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Lenses.lagda]: Maybe you want to add a comment to that file of mine and remove the TODO?

File: source/ReflexiveGraphs/Lenses.lagda [hunk 20]
```diff
@@ -0,0 +1,272 @@
...
+
+\end{code}
+
+We name the components of an lax contravariant lens.
+
+\begin{code}
+
+module _ {𝓤' 𝓥' : Universe} {𝓐 : Refl-Graph 𝓤 𝓥}
+         (𝓛@(𝓑 , s) : Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐)
+          where
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Lenses.lagda]: I have a slight preference for the `where` to be indented at the same level as `_`, but this is unimportant. Do as you wish.

**Review by martinescardo — CHANGES_REQUESTED** [review]
Sorry for the delay, @IanRay11 . I was attending a conference.

@tomdjong After Ian makes minor modification, this is ready to go.

File: source/ReflexiveGraphs/Lenses.lagda (hunk 19 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: The todo comment and the pointer to your file aren't really related. Can you review this and elaborate if I am missing your point? 

Just to clarify, the todo is in regards to a generalization of your result: something like fundamental theorem of transport along edges which shows that if you have a univalent lens (ignoring orientation) on a univalent universe then the canonical transport along the edge is equal to the push from the lens data.

Comment (IanRay11) [reply source/ReflexiveGraphs/Lenses.lagda]: For now I will resolve this as I think the TODO should stay here until the examples file is available. At that time I will also reference it.

Comment (tomdjong) [reply source/ReflexiveGraphs/Lenses.lagda]: Minor: Could you just refer to `UF/FundamentalLemmaOfTransportAlongEquivalences` since this is an internal reference please.
(Agreed on resolving this by the way.)

**Review by martinescardo — APPROVED** [review]
Back to you, @tomdjong
